US07732460B2
(c) 1,1-dimethylethyl {1-[((4R/S)-8-chloro-3-fluoro-4-hydroxy-7-oxo-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-4-yl)methyl]-4-piperidinyl}carbamate
To a solution of crude ((4R/S)-8-chloro-3-fluoro-4-hydroxy-7-oxo-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-4-yl)methyl 4-methylbenzenesulfonate (˜2.5 g, assumed 6.10 mmol) in ethanol (50 mL), at room temperature, under argon was added 1,1-dimethylethyl 4-piperidinylcarbamate (1.22 g, 6.10 mmol) and sodium hydrogenocarbonate (1.94 g, 18.31 mmol). The reaction mixture was stirred for 8 hours. A further 0.5 equivalent of 1,1-dimethylethyl 4-piperidinylcarbamate (0.61 g, 3.05 mmol) and 1.5 equivalent of sodium hydrogenocarbonate (0.97 g, 9.15 mmol) were added. The reaction mixture was stirred for an additional 18 hours, treated with water (200 mL) and extracted with a 10% solution of methanol in dichloromethane (3×200 mL). The combined organic layers were dried over magnesium sulphate, evaporated and chromatograped affording an impure material which used crude in the following step.

reactant | ((4R/S)-8-chloro-3-fluoro-4-hydroxy-7-oxo-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-4-yl)methyl 4-methylbenzenesulfonate | 6.10 mmol, ˜2.5 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1(CN2C=3C1=C(C=NC3C=C(C2=O)Cl)F)O | C18H14ClFN2O5S
reactant | 1,1-dimethylethyl 4-piperidinylcarbamate | 6.10 mmol, 1.22 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | sodium | 18.31 mmol, 1.94 g | [Na] | Na
reactant | 1,1-dimethylethyl 4-piperidinylcarbamate | 3.05 mmol, 0.61 g, 0.5 equivalent | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | sodium | 9.15 mmol, 0.97 g, 1.5 equivalent | [Na] | Na
reactant | water | 200 mL | O | H2O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 1,1-dimethylethyl {1-[((4R/S)-8-chloro-3-fluoro-4-hydroxy-7-oxo-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-4-yl)methyl]-4-piperidinyl}carbamate | ClC=1C(N2C=3C(=C(C=NC3C1)F)C(C2)(O)CN2CCC(CC2)NC(OC(C)(C)C)=O)=O | C21H26ClFN4O4
